US05594140
A mixture of 2-hydroxyquinoline-4-carboxylic acid (V. 2.89 g) and of thionyl chloride (25 ml) is stirred at 80° for 12 hr and then allowed to cool. Excess thionyl chloride is removed under reduced pressure and dichloromethane is added to the residue. The dichloromethane is then removed and the process repeated to remove traces of thionyl chloride. The residue is dried under reduced pressure to give 2-hydroxyquinolin-4-oyl chloride (V-A) as a solid, which is used without further purification, mp: shrinkage and melting from approximately 260°-275°.

reactant | 2-hydroxyquinoline-4-carboxylic acid | 2.89 g | OC1=NC2=CC=CC=C2C(=C1)C(=O)O | C10H7NO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-hydroxyquinolin-4-oyl chloride | OC1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C10H6ClNO2
